US05866592
N-4-Amidinobenzoyl-β-phenyl-α,α-dimethyl-β-alanyl-4-piperidineacetic acid benzyl ester (63 mg, 0.114 mmol) was dissolved in an 80% aqueous methanol solution (10 ml) containing 2% acetic acid. To the reulting solution was added palladium hydroxide (50 mg) and the mixture was stirred in a hydrogen atmosphere for 15 minutes. The solvents were distilled off and the res idue was dissolved in a 1N aqueous solution of acetic acid. The resulting solution was purified with a high performance liquid chromatography (HPLC) under the same conditions as described in (3) to yield a powder of N-(N-4-amidinobenzoyl-β-phenyl-α,α-dimethyl-β-alanyl-4-piperidineacetic acid (47.5 mg, 89.9%). The obtained product was identified by NMR, MS and HPLC analyses to be the same compound as prepared by the solid phase method.

reactant | N-4-Amidinobenzoyl-β-phenyl-α,α-dimethyl-β-alanyl-4-piperidineacetic acid benzyl ester | 0.114 mmol, 63 mg | C(C1=CC=CC=C1)OC(CC1CCN(CC1)C(C(C(NC(C1=CC=C(C=C1)C(N)=N)=O)C1=CC=CC=C1)(C)C)=O)=O | C33H38N4O4
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium hydroxide | 50 mg | [OH-].[Pd+2].[OH-]
product | N-4-amidinobenzoyl-β-phenyl-α,α-dimethyl-β-alanyl-4-piperidineacetic acid | 47.5 mg, 89.9% | C(N)(=N)C1=CC=C(C(=O)NC(C(C(=O)N2CCC(CC2)CC(=O)O)(C)C)C2=CC=CC=C2)C=C1 | C26H32N4O4
